
.lib tt
.include 'FreePDK45/hspice_nom.include'

.subckt MOSN d g s b w='50e-9' l='45e-9' mult='1'
m1 d g s b NMOS_VTH w=w l=l m=mult
.ends


.subckt MOSP d g s b w='50e-9' l='45e-9' mult='1'
m1 d g s b PMOS_VTH w=w l=l  m=mult
.ends


.subckt INVERTER input output vdd vss multfac='1'
xM1 output input vss vss MOSN w='multfac*120e-9' l='45e-9'
xM2 output input vdd vdd MOSP w='multfac*2*120e-9' l='45e-9'
.ends


.endl
